US09301951B2
(S)—N1-(2-(2-(2,5,8,11,14,17,20,23-octaoxapentacosan-25-ylcarbamoyl)pyrrolidin-1-yl)ethyl)-N3-(4-(diethylamino)-2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)phenyl)-N1-methylisophthalamide
To a mixture of (S)-1-(2-(3-((4-(diethylamino)-2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)-N-methylbenzamido)ethyl)pyrrolidine-2-carboxylic acid (1.32 mmol, 1.12 g), 2,5,8,11,14,17,20,23-octaoxapentacosan-25-amine (1.38 mmol, 530 mg) and DIEA (9.21 mmol, 1.19 g) in DMF (4 mL) was added HATU (1.45 mmol, 0.551 g). The mixture was stirred at 60° C. for 1 h and purified by prep. HPLC to give a syrup (1.18 g, 62%). MS (ES, m/z): 1110.42 [M+H]+.

reactant | (S)-1-(2-(3-((4-(diethylamino)-2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)-N-methylbenzamido)ethyl)pyrrolidine-2-carboxylic acid | 1.32 mmol, 1.12 g | C(C)N(C1=CC(=C(C=C1)NC(=O)C=1C=C(C(=O)N(C)CCN2[C@@H](CCC2)C(=O)O)C=CC1)C1=NC=CC(=C1)C(NCC1=CC(=CC=C1)C(F)(F)F)=O)CC | C40H43F3N6O5
reactant | 2,5,8,11,14,17,20,23-octaoxapentacosan-25-amine | 1.38 mmol, 530 mg | COCCOCCOCCOCCOCCOCCOCCOCCN | C17H37NO8
reactant | DIEA | 9.21 mmol, 1.19 g | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 1.45 mmol, 0.551 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | (S)—N1-(2-(2-(2,5,8,11,14,17,20,23-octaoxapentacosan-25-ylcarbamoyl)pyrrolidin-1-yl)ethyl)-N3-(4-(diethylamino)-2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)phenyl)-N1-methylisophthalamide | 1.18 g, 62% | COCCOCCOCCOCCOCCOCCOCCOCCNC(=O)[C@H]1N(CCC1)CCN(C(C1=CC(C(=O)NC2=C(C=C(C=C2)N(CC)CC)C2=NC=CC(=C2)C(NCC2=CC(=CC=C2)C(F)(F)F)=O)=CC=C1)=O)C | C57H78F3N7O12
